US09376449B2
To 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (100 mg) were added tetrahydrofuran (1.20 mL), triethylamine (0.147 mL), and ethylisocyanate (0.0415 mL), followed by stirring for 1 hour. To the mixture were added silica gel and methanol, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 94:6) to obtain a colorless solid. The obtained solid was washed with hexane/ethyl acetate to obtain 3-{2-[(ethylcarbamoyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide (86.0 mg) as a colorless solid.

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 100 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | tetrahydrofuran | 1.20 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 0.147 mL | C(C)N(CC)CC | C6H15N
reactant | ethylisocyanate | 0.0415 mL | C(C)N=C=O | C3H5NO
solvent | methanol | CO | CH4O
product | 3-{2-[(ethylcarbamoyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide | 86.0 mg | C(C)NC(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC | C16H22N4O3
